US04812164
using ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate with sodium hydride and isopropyl bromide in hexamethyl-phosphoric acid triamide there is obtained ethyl 2-chloro-5-(4,5,6,7-tetrahydro-2-isopropoxy-4-oxo-3H -cyclopenta[d]pyrimidin-3-yl)-benzoate. 1H-NMR (CDCl3, 400 MHz): 7.69 ppm (d,1H), 7.54 ppm (d,1H), 7.23 ppm (q,1H), 5.30 ppm (m,1H), 4.38 ppm (q,2H), 2.79 ppm (m,4H). 2.09 ppm (m,2H), 1.38 ppm (t,3H), 1.22 ppm (d,6H).

reactant | ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(NC2=C(C1=O)CCC2)=O | C16H15ClN2O4
reactant | sodium hydride | [H-].[Na+]
reactant | isopropyl bromide | C(C)(C)Br | C3H7Br
solvent | hexamethyl-phosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | ethyl 2-chloro-5-(4,5,6,7-tetrahydro-2-isopropoxy-4-oxo-3H -cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(=NC2=C(C1=O)CCC2)OC(C)C | C19H21ClN2O4
